US08486952B2
A solution of 2-chloro-7-(4-fluorophenyl)-N-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (307.5 mg, 1.107 mmol) and 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline (248 mg, 1.107 mmol) in THF (3 mL) and acetic acid (3.00 mL) was heated at 80° C. overnight. The solvent was removed in vacuum and the residue was triturated with methanol, cooled in the freezer and filtered. The precipitate was thoroughly washed with methanol and dried to give N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-7-(4-fluorophenyl)-N4-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine (207.9 mg, 0.447 mmol, 40.4% yield) as off-white solid. LC-MS (M+H)+=465.0. 1H NMR (500 MHz, CDCl3) δ ppm 9.18 (1H, s), 8.15 (1H, d, J=1.8 Hz), 7.73 (1H, d, J=1.5 Hz), 7.41 (1H, d, J=1.5 Hz), 7.18-7.26 (2H, m), 7.07-7.18 (2H, m), 6.88-7.00 (1H, m), 4.12-4.20 (1H, m), 4.04-4.12 (1H, br s), 3.60 (3H, s), 3.17 (1H, s), 2.96 (3H, d, J=4.6 Hz), 2.71-2.81 (1H, m), 2.52-2.66 (2H, m), 1.83-1.96 (1H, m).

reactant | 2-chloro-7-(4-fluorophenyl)-N-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 1.107 mmol, 307.5 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)NC | C14H13ClFN3
reactant | 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline | 1.107 mmol, 248 mg | ClC=1N=CN(C1)C1=C(C=C(N)C=C1)OC | C10H10ClN3O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 3.00 mL | C(C)(=O)O | C2H4O2
product | N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-7-(4-fluorophenyl)-N4-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine | 0.447 mmol, 207.9 mg, 40.4% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)NC)OC | C24H22ClFN6O
